US04202873
According to the original literature procedure of A. Patchornik et al. (J.A.C.S., 79, 6416/1957), 1,N-dicarbobenzoxy-L-histidine was prepared by the reaction of L-histidine with carbobenzoxy chloride.

reactant | L-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | carbobenzoxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
product | 1,N-dicarbobenzoxy-L-histidine | C(=O)(OCC1=CC=CC=C1)N1C=C(C[C@H](NC(=O)OCC2=CC=CC=C2)C(=O)O)N=C1 | C22H21N3O6
